US07968585B2
5-bromo-2-(bromomethyl)-1,3-dichlorobenzene
Heat a solution of 5-bromo-1,3-dichloro-2-methylbenzene (97 mg, 0.40 mmol), N-bromosuccinimide (76 mg, 0.425 mmol) and benzoyl peroxide (16 mg, 0.06 mmol) in CCl4 (5 mL) to reflux for 3 hours under N2. Cool the reaction to room temperature and concentrate to an orange residue. Purify the residue by silica gel chromatography eluting with hexanes to afford 112 mg (87%) of the product as white crystals.

reactant | 5-bromo-1,3-dichloro-2-methylbenzene | 0.40 mmol, 97 mg | BrC=1C=C(C(=C(C1)Cl)C)Cl | C7H5BrCl2
reactant | N-bromosuccinimide | 0.425 mmol, 76 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.06 mmol, 16 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-2-(bromomethyl)-1,3-dichlorobenzene | 112 mg, 87% | BrC=1C=C(C(=C(C1)Cl)CBr)Cl | C7H4Br2Cl2
